US07320972B2
(3R,4S)-4-(5-Bromopyridin-2-yl)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-1-phenylazetidin-2-one (23 mg, 0.051 mmol) was coupled with 3-hydroxyphenyl boronic acid (9.2 mg, 0.067 mmol) under standard Suzuki conditions illustrated by Example 42. Purification by chromatography (4 g silica gel, 15% to 100% ethyl acetate-hexane) afforded (3R,4S)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-[5-(3-hydroxyphenyl)pyridin-2-yl]-1-phenylazetidin-2-one (20.7 mg, 87% yield) as a clear film; Rf 0.14 (1:1 ethyl acetate-hexane); 1H NMR (300 MHz, CDCl3) δ 8.88 (d, J=2.2 Hz, 1H), 7.88 (dd, J=8.2, 2.3 Hz, 1H), 7.86-7.80 (m, 1H), 7.39-7.22 (m, 7H), 7.12-7.02 (m, 3H), 6.96 (t, J=8.7 Hz, 2H), 6.96-6.91 (m, 1H), 4.97 (d, J=2.3 Hz, 1H), 4.76-4.72 (m, 1H), 3.28-3.22 (m, 1H), 3.20 (br s, 1H), 2.17-1.90 (m, 4H), 1.80 (br s, 1H) ppm; MS [M+H]+ 469.0.

reactant | (3R,4S)-4-(5-Bromopyridin-2-yl)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-1-phenylazetidin-2-one | 0.051 mmol, 23 mg | BrC=1C=CC(=NC1)[C@@H]1[C@H](C(N1C1=CC=CC=C1)=O)CC[C@H](O)C1=CC=C(C=C1)F | C23H20BrFN2O2
reactant | 3-hydroxyphenyl boronic acid | 0.067 mmol, 9.2 mg | OC=1C=C(C=CC1)B(O)O | C6H7BO3
product | (3R,4S)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-[5-(3-hydroxyphenyl)pyridin-2-yl]-1-phenylazetidin-2-one | 20.7 mg, 87% yield | FC1=CC=C(C=C1)[C@H](CC[C@H]1C(N([C@@H]1C1=NC=C(C=C1)C1=CC(=CC=C1)O)C1=CC=CC=C1)=O)O | C29H25FN2O3
